Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB, DOE
 
Major Surgical or Invasive Procedure:
NA

 
History of Present Illness:
CHIEF COMPLAINT:  SOB

HISTORY OF PRESENT ILLNESS:  
___ PMH of Anxiety, ETOH Use Disorder, recently diagnosed CML,
presented to clinic with SOB, was admitted for observation 
during
initiation of Dasatnib

Per review of clinic notes, patient was recently diagnosed with
AML and was on hydrea, with plan to start imatinib in the
outpatient setting. In the interim, she developed shortness of
breath, so was admitted direct from clinic for observation 
during
initiation of imatinib. CTA done prior to admission revealed no
PE or acute pulmonary abnormality. 

Pt reports that she has had intermittent shortness of breath for
weeks which has been unchanged over time. She noted that it is
worse at night, better during the day time. Nothing makes it
better, but allowing time for it to go away. She noted that it 
is
associated with some nasal congestion, but has no hx of
allergies, and stated that she is otherwise without any
infectious symptoms (no fever or productive cough) and no sick
contacts. She noted that she does not have a history of asthma
and did not sound like she was wheezing during these events. 
 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Per last outpatient note by Dr ___:
"- ___: She was initially seen by her primary care doctor on
___ and had been feeling fatigue, light headed, and nauseated
for about a month; blood work revealed a white blood cell count
27.3, neutrophil predominant, with 6% basophils. She also had
thrombocythemia with a platelet count of 775,000.  Hemoglobin 
was
14.4.  She had a repeat CBC on ___ which showed a white blood
cell count of 14.9, hemoglobin 14.4, PLT 775,000, basophils 20%. 

Additionally, peripheral blood was sent for BCR/ABL 
rearrangement
which was positive in 116 out of 200 of the nuclei analyzed.
- ___: Initial evaluation and bone marrow biopsy at ___.
Bone marrow biopsy with "marked hypercellular marrow with
increased myeloid precursors, neutrophils, eosinophils and
basophils, and no significant dysplasia...blasts are not
increased"

PAST MEDICAL HISTORY:  
ETOH use disorder (quit ___
Anxiety
Insomnia
Gastritis
Eating disorder
 
 
Social History:
___
Family History:
FAMILY HISTORY:  
PGM: Liver cancer in her ___. No family history of blood
disorders. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals:  ___ 1841 Temp: 97.2 PO BP: 115/76 HR: 73 RR: 16 O2
sat: 97% O2 delivery: RA 
GENERAL: sitting in bed, appears comfortable, NAD
EYES: PERRLA, aanicteric
HEENT:  OP clear, MMM
NECK:  supple, normal ROM
LUNGS:  CTA b/l, speaking in full sentences, no cough, no
increased WOB
CV:  RRR normal distal perfusion, no edema
ABD: SOFT, NT, ND, normoactive BS
GENITOURINARY: no foley or suprapubic tenderness
EXT:  warm, no deformity, normal muscle bulk
SKIN:  warm, dry, no rash
NEURO: AOx3, fluent speech
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:
=======================
PHYSICAL EXAM:  
Vitals:  ___ 0325 Temp: 97.6 PO BP: 99/63 HR: 69 RR: 18 O2
sat: 97% O2 delivery: RA  
GENERAL: sitting in bed, appears comfortable, NAD
EYES: PERRLA, aanicteric
HEENT:  OP clear, MMM
NECK:  supple, normal ROM, no LAD 
LUNGS:  CTA b/l, speaking in full sentences, no cough, no
increased WOB
CV:  RRR normal distal perfusion, no edema
ABD: SOFT, NT, ND, normoactive BS
GENITOURINARY: no foley or suprapubic tenderness
EXT:  warm, no deformity, normal muscle bulk
SKIN:  warm, dry, no rash
NEURO: AOx3, fluent speech
ACCESS: PIV 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:52AM BLOOD WBC-20.2* RBC-4.60 Hgb-13.3 Hct-41.4 
MCV-90 MCH-28.9 MCHC-32.1 RDW-14.2 RDWSD-45.1 Plt ___
___ 11:52AM BLOOD Neuts-53.9 ___ Monos-1.7* Eos-7.0 
Baso-14.0* Im ___ AbsNeut-10.82* AbsLymp-4.18* 
AbsMono-0.35 AbsEos-1.42* AbsBaso-2.83*
___ 11:52AM BLOOD Glucose-76 UreaN-9 Creat-0.7 Na-140 K-4.5 
Cl-105 HCO3-24 AnGap-11
___ 11:52AM BLOOD ALT-47* AST-32 LD(LDH)-221 AlkPhos-79 
TotBili-0.2
___ 11:52AM BLOOD TotProt-6.5 Albumin-4.3 Globuln-2.2 
Calcium-9.1 Phos-3.3 Mg-1.9

DISCHARGE LABS/RESULTS:
=======================

___ 05:40AM BLOOD WBC-20.1* RBC-4.37 Hgb-12.6 Hct-40.1 
MCV-92 MCH-28.8 MCHC-31.4* RDW-14.3 RDWSD-46.5* Plt ___
___ 12:00AM BLOOD Neuts-52.7 ___ Monos-1.7* Eos-6.9 
Baso-12.6* Im ___ AbsNeut-11.56* AbsLymp-5.26* 
AbsMono-0.38 AbsEos-1.51* AbsBaso-2.78*
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD ___
___ 05:40AM BLOOD ALT-43* AST-33 LD(LDH)-235 AlkPhos-81 
TotBili-0.2
___ 12:00AM BLOOD Ferritn-80
___ 12:00AM BLOOD TSH-1.4
___ 01:00PM BLOOD Glucose-86 UreaN-7 Creat-0.7 Na-144 K-4.3 
Cl-111* HCO3-24 AnGap-9*

EKG ___: Normal sinus rhythm, normal EKG

NECK XR ___:
IMPRESSION:  
Unremarkable radiographs of the neck. 

ECHO ___:
IMPRESSION: Normal study. Normal biventricular cavity sizes and 
regional/global biventricular
systolic function. No valvular pathology or pathologic flow 
identified. Normal estimated pulmonary
artery systolic pressure.

 
Brief Hospital Course:
See d/c worksheet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine Dose is Unknown  PO QHS 
2. Hydroxyurea 500 mg PO DAILY 
3. HydrOXYzine 25 mg PO DAILY:PRN anxiety 
4. Minocycline 100 mg PO Q24H 
5. Sertraline 100 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY 
RX *cetirizine [24Hour Allergy] 10 mg 1 tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*2 
2.  DASatinib 100 mg PO DAILY )
 ( )  
3.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
RX *prochlorperazine maleate [Compazine] 10 mg 1 tablet(s) by 
mouth once a day Disp #*10 Tablet Refills:*0 
4.  HydrOXYzine 25 mg PO DAILY:PRN anxiety  
5.  Minocycline 100 mg PO Q24H  
6.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CML

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
DISCHARGE PAPERWORK
=====================

Dear Ms. ___,  

It was a privilege taking care of you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came in with worsening shortness of breath and very high 
platelets 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You got a scan of your lungs yesterday, which did not show a 
clot
- You were started on a chemotherapy for your CML called 
dasatinib
- You had imaging of your heart done before you started 
chemotherapy so that we have a baseline of their function 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best.

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___